US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepentanoic acid
To a stirred solution of 9.0 g (0.020 mole) of 4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepentanoic acid ethyl ester in 300 ml of 95% ethanol was added a solution of 21.0 g (0.250 mole) of sodium bicarbonate in 250 ml of water, and the mixture was heated at reflux for 6 h under a nitrogen atmosphere. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl ether and water (300 ml each). The layers were separated, and the aqueous layer was further extracted with three 300 ml portions of ethyl ether. The aqueous layer pH was adjusted to 6 with glacial acetic acid, whereupon a soid precipitate began to form. After standing for 16 h the crystals were collected by filtration, washed with water and recrystallized from benzene to yield 4.2 g (52%) of the title compound as a white solid, mp 105°-107° C.

reactant | 4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepentanoic acid ethyl ester | 0.020 mole, 9.0 g | C(C)OC(CCCCN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C25H31F2NO3
reactant | sodium bicarbonate | 0.250 mole, 21.0 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 250 ml | O | H2O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinepentanoic acid | 4.2 g, 52% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCCC(=O)O)(O)C1=CC=C(C=C1)F | C23H27F2NO3
